US04173566
A: 1-Benzhydryl-2-(m-trifluoromethylbenzimidoyl)azetidine
Suspend m-trifluoromethylphenylmagnesium bromide in ether by adding a solution of 18 g of m-bromobenzotrifluoride in 30 ml of ether to a stirred suspension of 1.94 g of magnesium turnings in 20 ml of dry ether. Upon completion of addition, allow the reaction mixture to cool to room temperature and add 7.95 g of 1-benzhydryl-2-cyanoazetidine.

reactant | m-trifluoromethylphenylmagnesium bromide | FC(C=1C=C(C=CC1)[Mg]Br)(F)F
reactant | m-bromobenzotrifluoride | 18 g | BrC=1C=C(C=CC1)C(F)(F)F | C7H4BrF3
reactant | magnesium | 1.94 g | [Mg] | Mg
reactant | 1-benzhydryl-2-cyanoazetidine | 7.95 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(CC1)C#N | C17H16N2
solvent | ether | CCOCC | C4H10O
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
product | 1-Benzhydryl-2-(m-trifluoromethylbenzimidoyl)azetidine | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(CC1)C(C1=CC(=CC=C1)C(F)(F)F)=N | C24H21F3N2
